US08802697B2
To a solution of 6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-amine (400 mg, 1.42 mmol) in THF (20 mL) at 0° C. was added sodium hydride (102 mg, 4.25 mmol). The solution was stirred for 20 mins, followed by the addition of 2-fluoro-1-methyl-3-nitrobenzene (440 mg, 2.84 mmol). The reaction mixture was stirred at RT overnight, quenched by water (20 mL) and extracted with ethyl acetate (3×30 mL). The organic layers were combined, washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated to afford a crude product, which was purified by silica gel column chromatography (ethyl acetate:petroleum ether=4:1) to afford 6-(3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine (310 mg, 51%) as a brown solid. MS (ES+) C22H19N5O4 requires: 417. found: 418 [M+H]+.

reactant | 6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-amine | 1.42 mmol, 400 mg | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)N)N=C1 | C15H14N4O2
reactant | sodium hydride | 4.25 mmol, 102 mg | [H-].[Na+]
reactant | 2-fluoro-1-methyl-3-nitrobenzene | 2.84 mmol, 440 mg | FC1=C(C=CC=C1[N+](=O)[O-])C | C7H6FNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)pyrido[2,3-d]pyrimidin-2-amine | 310 mg, 51% | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)NC2=C(C=CC=C2[N+](=O)[O-])C)N=C1 | C22H19N5O4
